US07977358B2
[1-(4-Bromo-3-trifluoromethyl-phenyl)-5-methyl-3-pyrimidin-5-yl-1H-pyrazol-4-yl]-[4-((S)-2-hydroxymethyl-pyrrolidin-1-yl)-piperidin-1-yl]-methanone
In analogy to the procedure described in Example 160E], a mixture of 5-methyl-3-pyrimidin-5-yl-1-(3-trifluoromethyl-phenyl)-1H-pyrazole-4-carboxylic acid and 1-(4-bromo-3-trifluoromethyl-phenyl)-5-methyl-3-pyrimidin-5-yl-1H-pyrazole-4-carboxylic acid (example 173D]) and ((S)-1-piperidin-4-yl-pyrrolidin-2-yl)-methanoldihydrochloride (Example 161A]) gave a mixture of the title compound and example 175. Purification by reversed phase HPLC (MeCN:H2O) afforded [4-((S)-2-hydroxymethyl-pyrrolidin-1-yl)-piperidin-1-yl]-[5-methyl-3-pyrimidin-5-yl-1-(3-trifluoromethyl-phenyl)-1H-pyrazol-4-yl]-methanone (Example 175) and [1-(4-bromo-3-trifluoromethyl-phenyl)-5-methyl-3-pyrimidin-5-yl-1H-pyrazol-4-yl]-[4-((S)-2-hydroxymethyl-pyrrolidin-1-yl)-piperidin-1-yl]-methanone) as a white solid (31%). MS: 593.4 (1 Br, MH+).

reactant | 5-methyl-3-pyrimidin-5-yl-1-(3-trifluoromethyl-phenyl)-1H-pyrazole-4-carboxylic acid | CC1=C(C(=NN1C1=CC(=CC=C1)C(F)(F)F)C=1C=NC=NC1)C(=O)O | C16H11F3N4O2
reactant | 1-(4-bromo-3-trifluoromethyl-phenyl)-5-methyl-3-pyrimidin-5-yl-1H-pyrazole-4-carboxylic acid | BrC1=C(C=C(C=C1)N1N=C(C(=C1C)C(=O)O)C=1C=NC=NC1)C(F)(F)F | C16H10BrF3N4O2
reactant | ((S)-1-piperidin-4-yl-pyrrolidin-2-yl)-methanoldihydrochloride | Cl.Cl.N1CCC(CC1)N1[C@@H](CCC1)CO
product | [1-(4-Bromo-3-trifluoromethyl-phenyl)-5-methyl-3-pyrimidin-5-yl-1H-pyrazol-4-yl]-[4-((S)-2-hydroxymethyl-pyrrolidin-1-yl)-piperidin-1-yl]-methanone | BrC1=C(C=C(C=C1)N1N=C(C(=C1C)C(=O)N1CCC(CC1)N1[C@@H](CCC1)CO)C=1C=NC=NC1)C(F)(F)F | C26H28BrF3N6O2
